US05099063
B. 1-Aminoethyl-(2-carboxy-1-oct-2-enyl)phosphinic acid (E/Z isomer mixture)
The title compound was prepared from Methyl-1-t-butoxycarbonylaminoethyl-(2-carbomethoxy-1-oct-2-enyl)phosphinate (0.176 gm, 0.45 mmol) by stirring in concentrated HCl according to Example 33. The title compound as its hydrochloride salt (0.105 gm) was obtained as a hygroscopic white powder.

reactant | Methyl-1-t-butoxycarbonylaminoethyl-(2-carbomethoxy-1-oct-2-enyl)phosphinate | 0.45 mmol, 0.176 gm | COP(=O)(CC(=CCCCCC)C(=O)OC)C(C)NC(=O)OC(C)(C)C | C18H34NO6P
solvent | HCl | Cl | ClH
product | 1-Aminoethyl-(2-carboxy-1-oct-2-enyl)phosphinic acid | NC(C)P(O)(=O)CC(=CCCCCC)C(=O)O | C11H22NO4P
